US06747023B1
1,4-Bis(tert-butoxycarbonyl)-2-(2-bromoethyl)piperazine
In methylene chloride (70 ml) were dissolved 1,4-bis(tert-butoxycarbonyl)-2-(2-hydroxyethyl)piperazine (2.01 g) and triphenylphosphine (1.98 g). Under ice cooling, carbon tetrabromide (3.07 g) was added to the resulting solution, followed by stirring at room temperature for 2.5 hours. The reaction mixture was extracted with a 10% aqueous solution of sodium thiosulfate. The organic layer was washed with saturated aqueous NaCl solution, dried over anhydrous sodium sulfate an distilled under reduced pressure to remove the solvent. The residue was subjected to column chromatography (hexane:ethyl acetate=4:1) using as a carrier silica gel, whereby the title compound (2.20 g) was obtained as colorless powder.

reactant | 1,4-bis(tert-butoxycarbonyl)-2-(2-hydroxyethyl)piperazine | 2.01 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CCO | C16H30N2O5
reactant | triphenylphosphine | 1.98 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 3.07 g | C(Br)(Br)(Br)Br | CBr4
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 1,4-Bis(tert-butoxycarbonyl)-2-(2-bromoethyl)piperazine | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CCBr | C16H29BrN2O4
